US04719049
A mixture of KOtBu (MCB, 18.2 g, 0.162 mol)) in 2-methoxyethanol (1 L) was treated with 10-chloro-9-anthraldehyde (Aldrich, 25 g, 0.104 mol) and refluxed for 2 h. The cooled reaction mixture was diluted with H2O (5 L), and the resulting oil stirred for 2 h until solidification occurred. The filtered solid was chromatographed on a plug of SiO2 (500 g) using CH2Cl2 as the eluting solvent to afford 26.9 g (92%) of 10-(2-methoxyethoxy)-9-anthracenecarboxaldehyde mp 87°-88°, (C, H), (CH2Cl2 /hexane).

reactant | KOtBu | 0.162 mol, 18.2 g | CC(C)(C)[O-].[K+]
reactant | 10-chloro-9-anthraldehyde | 0.104 mol, 25 g | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | 2-methoxyethanol | 1 L | COCCO | C3H8O2
solvent | H2O | 5 L | O | H2O
product | 10-(2-methoxyethoxy)-9-anthracenecarboxaldehyde | 26.9 g, 92% | COCCOC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C18H16O3
